US07169761B2
A suspension of (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-(2,3-diethoxy-5-methylphenyl)-D-glucitol (500 mg) and N-bromosuccinimide (209 mg) in carbon tetrachloride (10 ml) was refluxed with heating and 2,2′-azobis(isobutyronitrile) (80 mg) was added. The mixture was stirred for 30 minutes under refluxing and the reaction mixture was allowed to be cooled to room temperature. After evaporating the solvent under reduced pressure, the resulting residue was purified by silica gel column chromatography (ethyl acetate-n-hexane) to obtain (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[5-(bromomethyl)-2,3-diethoxyphenyl]-D-glucitol (464 mg).

reactant | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-(2,3-diethoxy-5-methylphenyl)-D-glucitol | 500 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=C(C(=CC(=C1)C)OCC)OCC | C25H34O11
reactant | N-bromosuccinimide | 209 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 80 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[5-(bromomethyl)-2,3-diethoxyphenyl]-D-glucitol | 464 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=C(C(=CC(=C1)CBr)OCC)OCC | C25H33BrO11
